US07759501B2
An example of a method known for producing N,N-dimethyl-3-hydroxy-3-(2-thienyl)propanamine is reacting 2-acetylthiophene with a dimethylamine hydrochloride in isopropanol in the presence of paraformaldehyde and hydrochloric acid to give 2-thienyl 2-dimethylaminoethyl ketone, and reducing this ketone with sodium borohydride in ethanol (Japanese Unexamined Patent Publication No. 1995-188065).

reactant | 2-acetylthiophene | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | paraformaldehyde | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-thienyl 2-dimethylaminoethyl ketone | CN(CCC(=O)C=1SC=CC1)C | C9H13NOS
